US05658923
Triethylamine 0.096 ml was added in a methylene chloride 5 ml solution of (IS)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride 100 mg, and stirred at 0° C. for 30 min. WSC 0.13 g and 1-adamantanecarboxylic acid 0.11 g were added therein, then temperature of the reaction mixture was gradually changed to room temperature and stirred for 15 hours. The reaction mixture was washed with saturated sodium chloride solution and dried by anhydrous sodium sulfate. After filtering the drying agent, the filtrate was concentrated in vacuo to obtain crude (IS)-3-(1-adamantyl carbonyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane. The concentrate was added to THF 10 ml solution of lithium aluminum hydride 24.0 mg and refluxed under heating for 1.5 hour. The reaction mixture was cooled, then added water, and removed the insoluble material by filtration. The filtrate was concentrated in vacuo. The thus obtained residue was purified by means of silica gel column chromatography (Wako gel, C200, chloroform) to obtain the product.

reactant | Triethylamine | 0.096 ml | C(C)N(CC)CC | C6H15N
reactant | (IS)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane hydrochloride | 100 mg | Cl.C[C@]12CNCC(CC1)C2(C)C
reactant | WSC | 0.13 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-adamantanecarboxylic acid | 0.11 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (IS)-3-(1-adamantyl carbonyl)-1,8,8-trimethyl-3-azabicyclo[3.2.1]octane | C12(CC3CC(CC(C1)C3)C2)C(=O)N2C[C@]3(CCC(C2)C3(C)C)C | C21H33NO
